US04761246
The above crude product of 4-(1-methyl-heptyloxy)-4'-hydroxy-azobenzene (16.5 g) was heated with lauryl bromide (16 g) in ethanol in the presence of KOH (3.6 g) under reflux for 10 hours, followed by passing a toluene solution of the product through an alumina chromatographic column and recrystallizing from heptane to obtain 4'-dodecyloxy-4'-(1-methyl-heptyloxy)-azobenzene

reactant | 4-(1-methyl-heptyloxy)-4'-hydroxy-azobenzene | 16.5 g | CC(CCCCCC)OC1=CC=C(C=C1)N=NC1=CC=C(C=C1)O | C20H26N2O2
reactant | lauryl bromide | 16 g | C(CCCCCCCCCCC)Br | C12H25Br
reactant | KOH | 3.6 g | [OH-].[K+]
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | C(C)O | C2H6O
product | 4'-dodecyloxy-4'-(1-methyl-heptyloxy)-azobenzene | C(CCCCCCCCCCC)OC1(CC=C(C=C1)N=NC1=CC=CC=C1)OC(CCCCCC)C | C32H52N2O2
